US08859566B2
A mixture of 2-Iodo-1-propyl-8-[1-(3-trifluoromethyl-benzyl)-1H-pyrazol-4-yl]-1,7-dihydro-purin-6-one (36 mg, 0.068 mmol), Zn dust (10 mg, 0.136 mmol) and THF (2 ml) was stirred for 2 hours at room temperature. Trifluoromethyl iodide gas was passed through the reaction mixture and HMPA (2 ml) was added and heated at 120° C. for 18 hours. The reaction mixture was cooled to room temperature, organic volatile solvent was evaporated and the residue was extracted with DCM (2×10 ml). The organic layer was washed with brine (10 ml), dried over Na2SO4, evaporated and purified by preparative HPLC to get 1-Propyl-2-trifluoromethyl-8-[1-(3-trifluoromethyl-benzyl)-1H-pyrazol-4-yl]-1,7-dihydro-purin-6-one as pale yellow solid (4.5 mg, 14%).

reactant | 2-Iodo-1-propyl-8-[1-(3-trifluoromethyl-benzyl)-1H-pyrazol-4-yl]-1,7-dihydro-purin-6-one | 0.068 mmol, 36 mg | IC=1N(C(C=2NC(=NC2N1)C=1C=NN(C1)CC1=CC(=CC=C1)C(F)(F)F)=O)CCC | C19H16F3IN6O
reactant | THF | 2 ml | C1CCOC1 | C4H8O
reactant | Trifluoromethyl iodide | FC(F)(F)I | CF3I
catalyst | Zn | 0.136 mmol, 10 mg | [Zn] | Zn
solvent | HMPA | 2 ml | CN(C)P(=O)(N(C)C)N(C)C | C6H18N3OP
product | 1-Propyl-2-trifluoromethyl-8-[1-(3-trifluoromethyl-benzyl)-1H-pyrazol-4-yl]-1,7-dihydro-purin-6-one | 4.5 mg, 14% | C(CC)N1C(=NC=2N=C(NC2C1=O)C=1C=NN(C1)CC1=CC(=CC=C1)C(F)(F)F)C(F)(F)F | C20H16F6N6O
